US05726172
A stirred solution of 5,6,7,8-tetrahydro-3,7,7-trimethylquinoline-5-one (240 mg, 1.3 mmol) in MeOH (6.5 mL) was cooled to 0° C. under Argon and treated with NaBH4 (48 mg, 1.3 mmol). The reaction was stirred over 14 h and allowed to warm to ambient temperature. The solvent was removed under reduced pressure and the crude oil that was chromatographed on a silica gel column packed in 95:5 EtOAc:hexanes and eluted with same. The appropriate fractions were combined and the solvent was removed under reduced pressure to give 5,6,7,8-tetrahydro-3,7,7-trimethylquinoline-5-ol.

reactant | 5,6,7,8-tetrahydro-3,7,7-trimethylquinoline-5-one | 1.3 mmol, 240 mg | CC=1C=NC=2CC(CC(C2C1)=O)(C)C | C12H15NO
reactant | NaBH4 | 1.3 mmol, 48 mg | [BH4-].[Na+]
solvent | MeOH | 6.5 mL | CO | CH4O
product | 5,6,7,8-tetrahydro-3,7,7-trimethylquinoline-5-ol | CC=1C=NC=2CC(CC(C2C1)O)(C)C | C12H17NO
